US07741321B2
To a solution of benzo[1,3]dioxol-5-yl-acetonitrile (0.50 g, 3.1 mmol) in CH2Cl2 (15 mL) was added dropwise BBr3 (0.78 g, 3.1 mmol) at −78° C. under N2. The mixture was slowly warmed to room temperature and stirred overnight. H2O (10 mL) was added to quench the reaction and the CH2Cl2 layer was separated. The aqueous phase was extracted with CH2Cl2 (2×7 mL). The combined organics were washed with brine, dried over Na2SO4 and purified by column chromatography on silica gel (Petroleum Ether/EtOAc 5:1) to give (3,4-dihydroxy-phenyl)-acetonitrile (0.25 g, 54%) as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 9.07 (s, 1H), 8.95 (s, 1H), 6.68-6.70 (m, 2H), 6.55 (dd, J=8.0, 2.0 Hz, 1H), 3.32 (s, 2H).

reactant | benzo[1,3]dioxol-5-yl-acetonitrile | 3.1 mmol, 0.50 g | O1COC2=C1C=CC(=C2)CC#N | C9H7NO2
reactant | BBr3 | 3.1 mmol, 0.78 g | B(Br)(Br)Br | BBr3
reactant | H2O | 10 mL | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (3,4-dihydroxy-phenyl)-acetonitrile | 0.25 g, 54% | OC=1C=C(C=CC1O)CC#N | C8H7NO2
